data/core_train_final.csv
"CC1(CCC=C[CH:20]1)C.[Br:10][Br:11]>>CC1(CCC=C[CH:20]1[Br:10])C.[Br:11] 20-10,20;10,11-10,20;10,11-11",Room Temperature,Propagation,abstraction
"[CH:8]1=[CH:7][CH:6]=[C:5]([CH:10]=[CH:9]1)[C:4]([C:11]2=[CH:12][CH:13]=[CH:14][CH:15]=[CH:16]2)[C:3]3=[CH:17][CH:18]=[CH:19][CH:20]=[CH:21]3.[I:1][I:2]>>[CH:14]1=[CH:13][CH:12]=[C:11]([CH:16]=[CH:15]1)[C:4]([C:5]2=[CH:6][CH:7]=[CH:8][CH:9]=[CH:10]2)([C:3]3=[CH:17][CH:18]=[CH:19][CH:20]=[CH:21]3)[I:1].[I:2] 4-1,4;1,2-1,4;1,2-2",Room Temperature,Propagation,abstraction
"[Cl:1].[Cl:2]>>[Cl:1][Cl:2] 1-1,2;2-1,2",Room Temperature,Termination,recombine
"[H:4][O:5].[N+:2](=[O:1])[O-:3]>>[H:4][O:5][N+:2](=[O:1])[O-:3] 5-5,2; 2-5,2",Room Temperature,Termination,recombine
"[H:20][S:21]C1=CC=CC=C1.CC(C)C1C(C([Si](O1)(C)C)CSC2=CC=CC=C2)[N:10]N(C3=CC=CC=C3)C4=CC=CC=C4>>[H:20][N:10](C1C([Si](OC1C(C)C)(C)C)CSC2=CC=CC=C2)N(C3=CC=CC=C3)C4=CC=CC=C4.C1=CC=C(C=C1)[S:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[CH2:1]=[CH:2][CH2:3][Cl:4].[Cl:5]>>[CH2:1]([CH:2][CH2:3][Cl:4])[Cl:5] 2,1-5,1; 2,1-2; 5-1,5",Room Temperature,Propagation,addition
"C[C:10](C)O[Na].C[C:20](C)O[Na]>>C[C:10](C)([C:20](C)(C)O[Na])O[Na] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:6][C:3]([CH2:4][CH3:5])([CH2:7][CH3:8])[CH:2]=[CH2:1].[Cl:10]>>[H:6][Cl:10].[CH3:5][CH2:4][C:3]([CH2:7][CH3:8])[CH:2]=[CH2:1] 10-6,10;3,6-6,10;3,6-3",Room Temperature,Propagation,abstraction
"[H:1][C:2]1[CH:3]=[CH:4][C:5](=[C:9]([C:10]2=[CH:11][CH:12]=[CH:13][CH:14]=[CH:15]2)[C:16]3=[CH:17][CH:18]=[CH:19][CH:20]=[CH:21]3)[C:6](=[CH:8]1)[H:7]>>[H:1][C:2]1=[CH:8][C:6]([C:5](=[C:9]([C:10]2=[CH:11][CH:12]=[CH:13][CH:14]=[CH:15]2)[C:16]3=[CH:17][CH:18]=[CH:19][CH:20]=[CH:21]3)[CH:4]=[CH:3]1)[H:7] 2-2,8; 6,8-2,8; 6,8-6",Room Temperature,Propagation,resonance
"CC(C)(C)C([O:10][O:20]C(C(C)(C)C)=O)=O>>CC(C)(C)C([O:10])=O.[O:20]C(C(C)(C)C)=O 10,20-10;10,20-20",Room Temperature,Initiation,homolyze
"[CH2:5]1[CH2:4][CH2:3][CH:2]([CH2:7][CH2:6]1).[Br:9][Br:10]>>[CH2:5]1[CH2:4][CH2:3][CH:2]([CH2:7][CH2:6]1)[Br:9].[Br:10] 2-9,2; 9,10-9,2; 9,10-10",Room Temperature,Propagation,abstraction
"[H:20][CH:21]1CCC2=C1C=CC=C2.C1CC(=O)[N:10]C1=O>>[H:20][N:10]1C(=O)CCC1=O.C1CC2=C([CH:21]1)C=CC=C2 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CC(CC(C(OC)=O)CC(C(OC)=O)C[CH:10]C(OC)=O)(C(OCC)=O)C.CC(CC(C(OC)=O)CC(C(OC)=O)[CH:21]([CH:22]C(OC)=O)[H:20])(C(OCC)=O)C>>CC(CC(C(OC)=O)CC(C(OC)=O)C[CH:10](C(OC)=O)[H:20])(C(OCC)=O)C.CC(CC(C(OC)=O)CC(C(OC)=O)[CH:21]=[CH:22]C(OC)=O)(C(OCC)=O)C 10-10,20;20,21-10,20;20,21-21,22;22-21,22",Room Temperature,Termination,abstraction
"CC(C)C(C)C.[Cl:20][Cl:21].[He]>>[He].CC(C)C(C)C.[Cl:20].[Cl:21] 20,21-20;20,21-21",Light,Initiation,homolyze
"O=S(C1=CC=C(C)C=C1)(N(CC2CCCCCCC)CC2[CH2:10])=O.O=S(C3=CC=C(C)C=C3)([N:21]([Cl:20])CC=C)=O>>O=S(C4=CC=C(C)C=C4)(N(CC5CCCCCCC)CC5[CH2:10][Cl:20])=O.O=S(C6=CC=C(C)C=C6)([N:21]CC=C)=O 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CCC[C:21]#[CH:20].[Br:10]>>CCC[C:21]=[CH:20][Br:10] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"CCOC(=O)C1(CC=CC1[C:10](C)[CH2:20][Sn:21](C2=CC=CC=C2)(C3=CC=CC=C3)C4=CC=CC=C4)C(=O)OCC>>CCOC(=O)C1(CC=CC1[C:10](C)=[CH2:20])C(=O)OCC.C1=CC=C(C=C1)[Sn:21](C2=CC=CC=C2)C3=CC=CC=C3 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,retroaddition
"C[C:21](=[CH2:20])C.C[C:10](C)COC>>C[C:21](C)[CH2:20][C:10](C)(C)COC 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"[H:14][C:13](=[CH2:12])[H:15].[H:8][C:7]([H:9])[CH2:6][C:5]([H:10])([H:11])[CH2:4][O:3][CH2:2][CH3:1]>>[H:14][C:13]([H:15])[CH2:12][C:7]([H:8])([H:9])[CH2:6][C:5]([H:10])([H:11])[CH2:4][O:3][CH2:2][CH3:1] 7-7,12;12,13-12,7;12,13-13",Room Temperature,Propagation,addition
"C1CC[C:10]2CCCCC2C1.[Br:20]>>C1CC[C:10]2(CCCCC2C1)[Br:20] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC(C)/N=[N:1]/[C:2]([H])([CH3])C.[Ar]>>[Ar].[N:1]=NC(C)C.C[C:2]([H])[CH3] 1,2-1;1,2-2",Heat,Initiation,homolyze
"[H:1][C:2]([H:3])([H:4])[C:5](=[O:7])[CH3:6].[He:8]>>[H:1][C:2]([H:3])[H:4].[He:8].[CH3:6][C:5]=[O:7] 2,5-2;2,5-5",Room Temperature,Initiation,homolyze
"[H:1][C:2]([H:3])([H:4])[C:5]1=[CH:6][CH:7]=[CH:8][CH:9]=[CH:10]1.[Cl:12]>>[H:1][C:2]([H:3])[C:5]1=[CH:6][CH:7]=[CH:8][CH:9]=[CH:10]1.[H:4][Cl:12] 12-4,12;2,4-4,12;2,4-2",Room Temperature,Propagation,abstraction
"C[C:10]1CCCCC1(C)C.[Br:20][Br:21]>>CC1(CCCC[C:10]1(C)[Br:20])C.[Br:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
[N+:2](=[O:1])[O-:3]>>[N:2](=[O:1])[O:3] 3-2,Room Temperature,Propagation,ha resonance
"[H:4][C:3]([H:5])([H:6])[C:2](=[O:1])[O:7][O:8][C:9](=[O:14])[C:10]([H:11])([H:12])[H:13].[Ar]>>[Ar].[H:4][C:3]([H:5])([H:6])[C:2](=[O:1])[O:7].[H:11][C:10]([H:12])([H:13])[C:9](=[O:14])[O:8] 7,8-7;7,8-8",Heat,Initiation,homolyze
